US07820700B2
Using [3-cyano-4-(isobutylthio)phenyl]boronic acid and methyl 2-chloroisonicotinate, 2-[3-cyano-4-(isobutylthio)phenyl]isonicotinic acid was obtained according to the method of Example 1. Then, 346 mg of the resulting 2-[3-cyano-4-(isobutylthio)phenyl]isonicotinic acid was suspended in 30 ml of ethanol, and 1.11 ml of a 1M aqueous sodium hydroxide solution was added to the suspension, followed by stirring at room temperature for 15 minutes. The reaction solution was concentrated under reduced pressure and the residue was washed with 2-propanol and subsequently with diethyl ether to obtain 208 mg of sodium 5-[3-cyano-4-(isobutylthio)phenyl]isonicotinate.

reactant | [3-cyano-4-(isobutylthio)phenyl]boronic acid | C(#N)C=1C=C(C=CC1SCC(C)C)B(O)O | C11H14BNO2S
reactant | methyl 2-chloroisonicotinate | ClC=1C=C(C(=O)OC)C=CN1 | C7H6ClNO2
product | 2-[3-cyano-4-(isobutylthio)phenyl]isonicotinic acid | C(#N)C=1C=C(C=CC1SCC(C)C)C=1C=C(C(=O)O)C=CN1 | C17H16N2O2S
